US06727264B1
1-(4-PYRIDINYL)-6-(TRIFLUOROMETHYL)-1H-INDOLE:
Prepared by Procedure C and Scheme O using 6-(trifluoromethyl)-1H-indole and 4-iodopyridine: ESMS m/e: 262.9 (M+H)+.

reactant | 6-(trifluoromethyl)-1H-indole | FC(C1=CC=C2C=CNC2=C1)(F)F | C9H6F3N
reactant | 4-iodopyridine | IC1=CC=NC=C1 | C5H4IN
product | 1-(4-PYRIDINYL)-6-(TRIFLUOROMETHYL)-1H-INDOLE | N1=CC=C(C=C1)N1C=CC2=CC=C(C=C12)C(F)(F)F | C14H9F3N2
